US09328067B2
3-({2-[(1-benzofuran-2-ylsulfonyl)amino]-4-chlorophenyl}sulfanyl)propanoic acid
To a solution of methyl 3-({2-[(1-benzofuran-2-ylsulfonyl)amino]-4-chlorophenyl}sulfanyl)propanoate (125 mg, 0.29 mmol) in THF (3 ml) was added a solution of LiOH.H2O (25 mg, 0.59 mmol) in H2O (1 ml). The reaction was stirred at room temperature for 1 hour, acidified with 1M HCl, and was extracted with EtOAc.

reactant | methyl 3-({2-[(1-benzofuran-2-ylsulfonyl)amino]-4-chlorophenyl}sulfanyl)propanoate | 0.29 mmol, 125 mg | O1C(=CC2=C1C=CC=C2)S(=O)(=O)NC2=C(C=CC(=C2)Cl)SCCC(=O)OC | C18H16ClNO5S2
reactant | LiOH.H2O | 0.59 mmol, 25 mg | O[Li].O
reactant | HCl | 1M | Cl | ClH
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | H2O | 1 ml | O | H2O
product | 3-({2-[(1-benzofuran-2-ylsulfonyl)amino]-4-chlorophenyl}sulfanyl)propanoic acid | O1C(=CC2=C1C=CC=C2)S(=O)(=O)NC2=C(C=CC(=C2)Cl)SCCC(=O)O | C17H14ClNO5S2
